US07772244B2
3-(1-Benzylpiperidin-4-yl)-8-fluoro-3,4-dihydroquinazolin-2(1H)-one
tert-Butyl 2-((1-benzylpiperidin-4-ylamino)methyl)-6-fluorophenylcarbamate (83.0 g, 201 mmol) was dissolved in pyridine (600 mL) and heated at reflux for 12 h. The reaction was concentrated, triturated with hot diethyl ether and placed in the freezer overnight. The resulting solid was filtered to give 68.1 g (64%) as a white solid. 1H-NMR (CDCl3, 500 MHz) δ 1.68 (m, 2H), 1.86 (dddd, J=11.9, 11.9, 11.9, 3.4 Hz, 2H), 2.14 (dd, J=11.6, 10.1 Hz, 2H), 2.98 (d, J=11.6 Hz, 2H), 3.51 (s, 2H), 4.34-4.44 (m, 3H), 6.71 (bs, 1H), 6.79-6.89 (m, 2H), 6.94 (dd, J=9.2, 9.2 Hz, 1H), 7.21-7.34 (m, 5H). Mass spec.: 340.30 (MH)+.

reactant | tert-Butyl 2-((1-benzylpiperidin-4-ylamino)methyl)-6-fluorophenylcarbamate | 201 mmol, 83.0 g | C(C1=CC=CC=C1)N1CCC(CC1)NCC1=C(C(=CC=C1)F)NC(OC(C)(C)C)=O | C24H32FN3O2
solvent | pyridine | 600 mL | N1=CC=CC=C1 | C5H5N
product | 3-(1-Benzylpiperidin-4-yl)-8-fluoro-3,4-dihydroquinazolin-2(1H)-one | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C(C=CC=C2C1)F)=O | C20H22FN3O
